US09145407B2
5-Chloro-N-(2,4-dimethoxybenzyl)-2,4-difluoro-N-(5-fluoropyrimidin-2-yl)benzenesulfonamide
N-(2,4-Dimethoxybenzyl)-5-fluoropyrimidin-2-amine (Preparation 18, 4.00 g, 15.2 mmol) was dissolved in tetrahydrofuran (40 mL) and cooled to −78° C. A 1.0 M solution of lithium hexamethyldisilazide in tetrahydrofuran (17 mL, 17 mmol) was added drop-wise to the solution and the solution was stirred for 30 minutes at −78° C. A solution of 5-chloro-2,4-difluorobenzenesulfonyl chloride (3.42 g, 13.8 mmol) in tetrahydrofuran was added drop-wise to the reaction mixture and it was stirred at −78° C. for 1 h then allowed to warm gradually to ambient temperature. The reaction mixture was stirred for 16 hours then quenched with saturated aqueous ammonium chloride (50 mL). The aqueous phase was extracted with ethyl acetate (×2). The combined organic phase was washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was adsorbed onto diatomaceous earth and purified by silica gel column chromatography (hexanes to dichloromethane gradient elution) to afford the title compound as a white solid (1.73 g).

reactant | N-(2,4-Dimethoxybenzyl)-5-fluoropyrimidin-2-amine | 15.2 mmol, 4.00 g | COC1=C(CNC2=NC=C(C=N2)F)C=CC(=C1)OC | C13H14FN3O2
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 5-chloro-2,4-difluorobenzenesulfonyl chloride | 13.8 mmol, 3.42 g | ClC=1C(=CC(=C(C1)S(=O)(=O)Cl)F)F | C6H2Cl2F2O2S
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 17 mmol, 17 mL | O1CCCC1 | C4H8O
product | 5-Chloro-N-(2,4-dimethoxybenzyl)-2,4-difluoro-N-(5-fluoropyrimidin-2-yl)benzenesulfonamide | 1.73 g | ClC=1C(=CC(=C(C1)S(=O)(=O)N(C1=NC=C(C=N1)F)CC1=C(C=C(C=C1)OC)OC)F)F | C19H15ClF3N3O4S
